US07947727B2
Intermediate 15: 3-(Ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol
To a solution of 1-phenyl-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine (1.235 g, 3.7 mmol) in anhydrous tetrahydrofuran (5 ml) was added ethylamine (2M in tetrahydrofuran) (10 ml, 20 mmol). The reaction was stirred at room temperature for approximately 72 hours and then evaporated in vacuo to give the title compound.

reactant | 1-phenyl-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine | 3.7 mmol, 1.235 g | C1(=CC=CC=C1)N1N=CC=2C(=CC=CC12)NCC1(OC1)C(F)(F)F | C17H14F3N3O
reactant | ethylamine | 20 mmol, 2M, 10 ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(Ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=CC=C1 | C19H21F3N4O
